US04615728
Preparation of N-(1,3-dioxolan-2-ylmethyl)-2-[4-(5-trifluoromethyl-2-pyridinyloxy)phenoxy]propionamide
1,3-Dioxolan-2 ylmethylamine (4 grams; 0.04 mol), triethylamine (5 ml) and dichloromethane (150 ml) were placed in a 3-necked glass reaction flask equipped with stirrer, thermometer and reflux condenser and cooled to 5° C. 2[4-(5-Trifluoromethyl-2-pyridinyloxy)-phenoxy]propanoic acid chloride (9 grams; 0.027 mol) in dichloromethane (30 ml) was added in a five minute time period. The reaction mixture was stirred for 1 hour at 5° C.-20° C., washed with water, passed through phase separating paper and concentrated to a dark gum (10.5 grams). The product was chromatographed through Florisil clay (100 ml), using hexane-ethyl acetate solvent mixtures. The desired product was isolated as a yellow gum (3.0 grams) and had the following elemental analysis:

reactant | 1,3-Dioxolan-2 ylmethylamine | 0.04 mol, 4 grams | O1C(OCC1)CN | C4H9NO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2[4-(5-Trifluoromethyl-2-pyridinyloxy)-phenoxy]propanoic acid chloride | 0.027 mol, 9 grams | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)(F)F | C15H11ClF3NO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-(1,3-dioxolan-2-ylmethyl)-2-[4-(5-trifluoromethyl-2-pyridinyloxy)phenoxy]propionamide | O1C(OCC1)CNC(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O | C19H19F3N2O5
